US08309546B2
Step 3: 2-(4-{2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl}piperazin-1-yl)-2-oxoethanol
A methylene chloride (5 ml) solution of 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine (126 mg, 0.28 mmol), hydroxyacetic acid (25 mg, 0.33 mmol), 1-hydroxybenzotriazole (37 mg, 0.28 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (64 mg, 0.33 mmol), and triethylamine (58 μl, 0.42 mmol) was stirred at room temperature for 2 days. Chloroform and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and, after filtration, the filtrate was concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography (methylene chloride:methanol=96:4) to give a solid. Ether was added to the resulting solid and the solid was collected by filtration and dried to give the title compound (110 mg, 77%) as a powder.

reactant | 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.28 mmol, 126 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1[C@H](COCC1)C)C=1C=NC(=NC1)N | C22H32N10O
reactant | hydroxyacetic acid | 0.33 mmol, 25 mg | OCC(=O)O | C2H4O3
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 37 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.33 mmol, 64 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.42 mmol, 58 μl | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ether | CCOCC | C4H10O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-{2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl}piperazin-1-yl)-2-oxoethanol | 110 mg, 77% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C(CO)=O)N1[C@H](COCC1)C | C24H34N10O3
